Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
allopurinol / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
Dyspnea and cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ yo with h/o CAD s/p DES, CKD, HFpEF (EF>60%) on torsemide, 
AF on coumadin, presented to ED w/3 days of productive cough and 
gradual onset dyspnea.  
 Patient reports she developed URI symptoms soon after 
___, including nasal congestion and cough. Over the 
past few days cough has worsened, productive of white/yellow 
sputum. She has also noted some SOB when lying flat and 
worsening dyspnea on exertion. She denies fevers, chest pain, 
abdominal pain, nausea, vomiting, diarrhea or urinary symptoms. 
She has been compliant with all of her medications, including 
her diuretics and denies worsening leg swelling or PND. Weight 
is down to 199lbs, from 210 in the past (intentional weight 
loss). No increase in her weight since she has been feeling 
unwell. Patient has been hospitalized in past w/HF exacerbation 
and states that her symptoms are not similar to those episodes. 
No history of asthma or COPD.  
 In the ED, initial vitals were: 98.1, 71, 168/80, 16, 93% NC 
(improved to 95% on RA w/nebs). Exam notable for diffuse 
wheezes, no crackles. Labs revealed WBC 8.7, Hb 10.4 (baseline), 
BUN/CR 110/3.5 (unclear baseline-last measured ___ 93/2.41), 
trop 0.03, BNP ___. EKG NSR rate 70, no ischemic changes. UA 
negative, CXR showed "possible minimal pulmonary vascular 
congestion, no focal consolidation". Patient given duonebs with 
improvement in her respiratory status and transferred to 
medicine for further management.  
 On the floor, patient complains of persistent productive cough. 
She is also requesting oxygen to be worn while she sleeps, for 
comfort (on no O2 at home). No additional acute complaints.  
 Review of systems:  
 (+) Per HPI  
 (-) Otherwise 10 point ROS negative. 
 
Past Medical History:
 - HTN, labile  
 - HLD  
 - HYPOTHYROIDISM  
 - RETINAL ARTERY OCCLUSION - BRANCH  
 - MIGRAINE EQUIVALENT  
 - CAD/MI (MIs in ___ and ___: This demonstrated a 
mid  
 RCA lesion which was stented with a drug-eluting stent. LAD had 
 
 a proximal 30% stenosis, left circumflex had a ostial 50%  
 stenosis. The distal RCA also had a 50% stenosis)  
 - CHF (EF 60-65% in ___  
 - OBESITY,  
 - insulin-dependent DMII  
 - Gout  
 - Renal artery stenosis  
 - CKDIII  
 - Anemia  
 - a-fib on anticoagulation  
 - Depression  
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION
==========
 Vital Signs: 97.9 PO 152 / 72 L Sitting 63 20 90 RA  
 Weight: 90.58kg (199.7lbs)  
 General: sitting up in bed, appears comfortable, NAD  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, neck supple, 
JVP difficult to appreciate, given obese neck, but does not 
appear grossly elevated.  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Poor air movement throught, diffuse expiratory wheezes. 
No crackles.  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
 Ext: Warm, well perfused, trace edema midway up calves b/l  
 Neuro: no focal deficits  
 LABS: Reviewed, see below.  

DISCHARGE
=========
Vitals:  98.4, HR 78, 93% RA, RR 20, BP ___
GENERAL: Alert, NAD, sitting up in bed
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP difficult to appreciate due to habitus
RESP: Kyphotic chest. Poor air movement but no wheezing or 
crackles
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
ABD: +BS, soft, obese, nontender, nondistended. 
EXT: warm, well perfused. Trace edema bilaterally of medial 
ankles.
NEURO: Grossly intact motor and sensory function. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:20PM BLOOD WBC-8.7 RBC-3.43* Hgb-10.4* Hct-33.6* 
MCV-98 MCH-30.3 MCHC-31.0* RDW-13.6 RDWSD-48.1* Plt ___
___ 08:20PM BLOOD Neuts-72.5* Lymphs-18.4* Monos-6.7 
Eos-1.2 Baso-0.2 Im ___ AbsNeut-6.27* AbsLymp-1.59 
AbsMono-0.58 AbsEos-0.10 AbsBaso-0.02
___ 08:20PM BLOOD ___ PTT-52.3* ___
___ 08:20PM BLOOD Glucose-192* UreaN-110* Creat-3.5*# 
Na-135 K-4.4 Cl-91* HCO3-29 AnGap-19
___ 08:20PM BLOOD ___ 08:20PM BLOOD cTropnT-0.03*
___ 08:20PM BLOOD Calcium-8.9 Phos-4.2 Mg-2.7*
___ 08:20PM BLOOD Digoxin-0.9
___ 08:20PM URINE Color-Straw Appear-Clear Sp ___
___ 08:20PM URINE Blood-TR Nitrite-NEG Protein-100 
Glucose-100 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:20PM URINE RBC-2 WBC-2 Bacteri-FEW Yeast-NONE Epi-1
___ 10:11AM URINE Hours-RANDOM UreaN-359 Creat-36 Na-87 
TotProt-81 Prot/Cr-2.3*
___ 10:11AM URINE Osmolal-339

DISCHARGE LABS
==============
___ 07:35AM BLOOD WBC-12.4* RBC-3.66* Hgb-11.4 Hct-36.3 
MCV-99* MCH-31.1 MCHC-31.4* RDW-13.6 RDWSD-49.7* Plt ___
___ 07:35AM BLOOD ___
___ 07:35AM BLOOD Glucose-168* UreaN-112* Creat-2.3* Na-141 
K-4.0 Cl-95* HCO3-29 AnGap-21*
___ 07:35AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.0

REPORTS
========
CT Chest ___. Bronchial wall thickening, endobronchial secretions, and 
peribronchial ground-glass and nodular opacities in the middle 
lobe and bilateral lower lobes, suspicious for aspiration 
pneumonia. 
2. At least one pulmonary nodule measuring 10 mm in the middle 
lobe, possibly with a second 10 mm nodule in the right lower 
lobe. Recommend follow-up chest CT in 6 weeks, after appropriate 
treatment. 
3. Probably reactive mediastinal and hilar lymphadenopathy. 
4. Mild dilation of the ascending aorta, measuring 41 mm. Mild 
aortic valve calcifications. 
5. Coronary calcifications. 
6. Indeterminate 12 x 12 mm left adrenal nodule. Recommend 
further 
characterization with adrenal protocol CT or MRI. 

CXR PA-Lateral ___
COPD.  Increasing left lower lobe opacities could be atelectasis 
or pneumonia in the appropriate clinical setting 

Renal US ___: Normal renal ultrasound.

CXR ___
Possible minimal pulmonary vascular congestion.  No focal 
consolidation.

MICROBIOLOGY
============
Blood cultures - negative
Urine culture - negative
 
Brief Hospital Course:
___ y/o F with a h/o CAD, diastolic CHF, AFib, DM, CKD 4, Gout, 
who presented with hypoxic respiratory failure most consistent 
with a COPD exacerbation, and ___ on CKD.

ACTIVE PROBLEMS
===============
# Hypoxic Respiratory Failure
# COPD Exacerbation
# Aspiration PNA
Her presenting symptoms included a preceding URI, which led to 
wheezing, cough, and dyspnea, in a patient with longstanding 
smoking history.  She had a low peak flow. Thus, her diagnosis 
was most consistent with a COPD exacerbation, although there was 
no diagnosis of COPD prior to admission.  She remained hypoxic 
when ambulatory on room air throughout her admission despite 
several days of high dose PO steroid (Methylpred 32mg daily - 
this chosen as opposed to Prednisone for simplicity's sake as 
she is chronically on low dose Methylpred), and scheduled/PRN 
nebulizers.  Thus, due to continued hypoxia, repeat CXR was done 
on ___, which showed only radiographic evidence of COPD, as 
well as atelectasis.  She was thus given Incentive Spirometry 
for atelectasis.  As she remained hypoxic, CT chest was then 
done ___, showing likely consolidation due to aspiration in 
both lower lobes.  She was thus started on Augmentin, and will 
complete ___s outpatient.  There was no evidence of 
CHF exacerbation based on bedside eval or imaging. PE unlikely 
given she is chronically on Warfarin.  Home O2 was arranged, but 
the patient declined this on day of discharge.  Started inhaled 
fluticasone BID given clinical certainty of COPD. Outpatient 
PFT's recommended on discharge.

# ___ on Stage 4 CKD: Presented with Cr 3.5, but quickly 
downtrended back to baseline mid-2's without any intervention. 
She appeared euvolemic, although volume status is certainly 
complex given CHF history. It is unclear what the acute insult 
was to cause worsening Cr of admission. FE-Urea was 28%, which 
is consistent with pre-renal azotemia, but not a fully reliable 
test. Renal US was unremarkable.  Her home Torsemide was 
continued.  Her home ___ (irbesartan) was replaced with Losartan 
while in house, as irbesartan is not formulary.

CHRONIC PROBLEMS
================
# Chronic Diastolic CHF: No e/o exacerbation. She is below prior 
dry weight and had minimal edema and no significant rales.  
Continued home Torsemide, Carvedilol. Continued ___.  Monitored 
volume status. Low salt diet

# CAD: Stable.
- Continue home ASA 81mg, Ezetimibe, Carvedilol
- ___ as above

# A-Fib on Warfarin: INR was supratherapeutic on admission, held 
Warfarin, and resumed once INR was therapeutic.  There were no 
further INR issues.
- Continued Warfarin
- Daily INR, should recheck as outpatient with ___ Anticoag 
Team per their routine
- Continue home digoxin (level checked, was 0.9)

# Diabetes
- Continue home Glargine/Humalog regimen, along with sliding 
scale

# Gout
- Continue home Febuxostat
- Continue home Methylprednisolone 4mg (initially was on higher 
dose of 32mg daily to treat COPD exacerbation)

# Hypothyroidism
- Continue home Levothyroxine 

# Anxiety
- Continue home Bupropion, Lorazepam

# Incidental findings
- Pulm nodules need f/u CT in 6 weeks
- Adrenal nodule needs f/u CT or MRI with adrenal protocol as 
outpatient

TRANSITIONAL ISSUES
===================
- Augmentin 500mg BID x7 days for aspiration pneumonia, ___
- Started inhaled fluticasone BID given likely COPD
- Arranged for home O2 and offered to the patient, but she 
declined it
- Outpatient PFT's recommended
- Needs f/u CT chest in 6 weeks to assess for resolution of x2 
10mm pulmonary nodules seen on CT chest
- Adrenal nodule noted on CT chest. Needs outpatient adrenal 
protocol CT or MRI for further characterization of left adrenal 
nodule

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea 
2. Ezetimibe 10 mg PO DAILY 
3. Methylprednisolone 4 mg PO DAILY 
4. LORazepam 0.5 mg PO BID:PRN anxiety 
5. Avapro (irbesartan) 150 mg oral DAILY 
6. Glargine 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Vitamin D ___ UNIT PO DAILY 
8. Warfarin 6.25 mg PO 3X/WEEK (___) 
9. Metolazone 2.5 mg PO DAILY 
10. Febuxostat 40 mg PO DAILY 
11. Torsemide 60 mg PO BID 
12. nystatin 100,000 unit/gram topical ___ daily 
13. BuPROPion (Sustained Release) 150 mg PO QAM 
14. Digoxin 0.125 mg PO 4X/WEEK (___) 
15. Carvedilol 37.5 mg PO BID 
16. Levothyroxine Sodium 112 mcg PO DAILY 
17. Miconazole Powder 2% 1 Appl TP BID 
18. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
19. Ferrous Sulfate 325 mg PO BID 
20. Aspirin 81 mg PO DAILY 
21. Warfarin 5 mg PO 4X/WEEK (___) 
22. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate [Augmentin] 500 mg-125 mg 1 
tablet(s) by mouth twice daily Disp #*14 Tablet Refills:*0 
2.  Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 2 puffs inhaled 
twice daily Disp #*1 Inhaler Refills:*2 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
4.  Aspirin 81 mg PO DAILY  
5.  Avapro (irbesartan) 150 mg oral DAILY  
6.  BuPROPion (Sustained Release) 150 mg PO QAM  
7.  Carvedilol 37.5 mg PO BID  
8.  Digoxin 0.125 mg PO 3X/WEEK (___)  
9.  Ezetimibe 10 mg PO DAILY  
10.  Febuxostat 40 mg PO DAILY  
11.  Ferrous Sulfate 325 mg PO BID  
12.  Glargine 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
13.  Levothyroxine Sodium 112 mcg PO DAILY  
14.  LORazepam 0.5 mg PO BID:PRN anxiety  
15.  Methylprednisolone 4 mg PO DAILY  
16.  Metolazone 2.5 mg PO DAILY 
as directed  
17.  Miconazole Powder 2% 1 Appl TP BID  
18.  nystatin 100,000 unit/gram topical ___ daily  
19.  Ondansetron 4 mg PO Q8H:PRN nausea  
20.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN BREAKTHROUGH 
PAIN  
21.  Torsemide 60 mg PO BID  
22.  Vitamin D ___ UNIT PO DAILY  
23.  Warfarin 6.25 mg PO 3X/WEEK (___)  
24.  Warfarin 5 mg PO 4X/WEEK (___)  
25.Home Oxygen
ICD-10: J44.9, COPD
2 liters/minute flow rate

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
COPD exacerbation
___ on CKD
Aspiration pneumonia

Secondary:
CAD, diastolic CHF, AFib, DM, Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you at ___.  You were admitted to 
our hospital because of trouble breathing.  It was discovered 
that the most likely cause of this was an exacerbation/crisis of 
"COPD."  You were treated with high dose steroids and 
nebulizers.

The CT scan of your chest also showed evidence of a small 
pneumonia. We will prescribe you an antibiotic for this, to take 
twice per day for 1 week.

You were also found to have worsening of your kidney function on 
arrival.  However, this fortunately improved back to baseline 
during your stay.

It was a pleasure caring for you, and we wish you the best.  
Please contact your PCP to get ___ follow up appointment.
- ___ team
 
Followup Instructions:
___